US05241027
Octadecyl parachlorobenzenesulfonate (11.1 g) was added to 5.13 g of 5-methoxy-2-methylbenzoselenazole, and the mixture was heated at 130° C. for 5 hours. The crystals yielded by the reaction were washed with ether and then recrystallized from benzene to give 9.98 g of 5-methoxy-2-methyl-3-octadecylbenzoselenazolium parachlorobenzenesulfonate (yield 67%).

reactant | Octadecyl parachlorobenzenesulfonate | 11.1 g | ClC1=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCCCCCCCCCC | C24H41ClO3S
reactant | 5-methoxy-2-methylbenzoselenazole | 5.13 g | COC=1C=CC2=C(N=C([Se]2)C)C1 | C9H9NOSe
product | 5-methoxy-2-methyl-3-octadecylbenzoselenazolium parachlorobenzenesulfonate | 9.98 g, yield 67% | ClC1=CC=C(C=C1)S(=O)(=O)[O-].COC=1C=CC2=C([N+](=C([Se]2)C)CCCCCCCCCCCCCCCCCC)C1 | InChI=1S/C27H46NOSe.C6H5ClO3S/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-22-28-24(2)30-27-21-20-25(29-3)23-26(27)28;7-5-1-3-6(4-2-5)11(8,9)10/h20-21,23H,4-19,22H2,1-3H3;1-4H,(H,8,9,10)/q+1;/p-1
